US05521177
d) 4'-[[2-n-Propyl-4-chloro-6-(2-cyano-3,3-dimethyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
225 mg (0.29 mMol) of 4'-[[2-n-propyl-4-chloro-6-(2-cyano-3,3-dimethyl-guanidino)-1H-benzimidazol-1-yl]methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl are dissolved in 10 ml of absolute ethanol, mixed with 2.5 ml of methanolic hydrochloric acid and stirred for 90 minutes at ambient temperature. The solvent is then removed in vacuo and the residue is taken up in methylene chloride/ethanol (4:1) and adjusted to pH 8 with methanolic ammonia. After the addition of 5 g of silica gel the mixture is evaporated to dryness. The residue is chromatographed on silica gel (particle size: 0.032-0.063 mm) using as eluant first methylene chloride and then methylene chloride/ethanol (50:1, 25:1, 19:1 and 9:1). The uniform fractions are combined and evaporated down.

reactant | 4'-[[2-n-propyl-4-chloro-6-(2-cyano-3,3-dimethyl-guanidino)-1H-benzimidazol-1-yl]methyl]-2-(1-triphenylmethyl-tetrazol-5-yl)-biphenyl | 0.29 mMol, 225 mg | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2Cl)NC(=NC#N)N(C)C | C47H41ClN10
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4'-[[2-n-Propyl-4-chloro-6-(2-cyano-3,3-dimethyl-guanidino) -1H-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2Cl)NC(=NC#N)N(C)C | C28H27ClN10
